US07816371B2
e. (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide
(R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide (0.2 g, 0.0007 mol), (S)-2-(4-chlorophenyl)propanoic acid (0.16 g, 0.00088 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.56 g, 0.0015 mol), N,N-diisopropylethylamine (0.4 g, 0.003 mol) were stirred in N,N-dimethylformamide (3 mL, 0.04 mol) at room temperature over a weekend. The reaction mixture was diluted with CH2Cl2 (100 mL), washed with NaHCO3 (20 mL×3), dried over Na2SO4, purified via flash chromatography (12 g of silica gel, 0-90% EtOAc/Hexane), and then prep. HPLC gave a white solid. 1H NMR δ (CDCl3) δ: 8.22 (d, J=8.0 Hz, 1H), 8.00 (t, J=7.4 Hz, 1H), 7.52-7.37 (m, 6H), 7.14 (br, 1H), 6.35 (br, 1H), 6.06-6.03 (m, 1H), 5.01 (d, J=11.3 Hz, 1H), 3.82 (q, J=7.2 Hz, 1H), 2.65-2.61 (m, 1H), 2.52-2.32 (m, 1H), 1.64 (d, J=11.1 Hz, 3H), 1.06 (d, J=6.4 Hz, 3H), 0.90-0.67 (m 5H) 0.51-0.41 (m, 2H). MS m/z 465.8 (M+H)+.

reactant | (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide | 0.0007 mol, 0.2 g | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC1CC1)C(C)C | C17H21N3O2
reactant | (S)-2-(4-chlorophenyl)propanoic acid | 0.00088 mol, 0.16 g | ClC1=CC=C(C=C1)[C@@H](C(=O)O)C | C9H9ClO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0015 mol, 0.56 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.003 mol, 0.4 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.04 mol, 3 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC1CC1)C(C)C)C | C26H28ClN3O3
